US07183276B2
A mixture of thiazolidine (145 mg), 3-{3-[2-(1H-benzoimidazol-1-yl)-4-(4-chlorophenyl}-5-oxazolyl]propionic acid (300 mg), 1-hydroxy-7-aza-1H-1,2,3-benzotriazole (222 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (253 mg) and N,N-dimethylformamide (1 ml) was stirred overnight at room temperature. To the reaction mixture was added 0.1N aqueous hydrochloric acid solution (16 ml) and the reaction mixture was extracted with ethyl acetate (5 ml). The organic layer was concentrated, introduced into preparative HPLC and purified to give 3-{3-[2-(1H-benzoimidazol-1-yl)-4-(4-chlorophenyl)-5-oxazolyl]propanoyl}thiazolidine (165 mg, 46%). Recrystallization from ethyl acetate-hexane gave yellow prism crystals. melting point: 125–126° C.

reactant | thiazolidine | 145 mg | S1CNCC1 | C3H7NS
reactant | 3-[2-(1H-benzoimidazol-1-yl)-4-(4-chlorophenyl}-5-oxazolyl]propionic acid | 300 mg | N1(C=NC2=C1C=CC=C2)C=2OC(=C(N2)C2=CC=C(C=C2)Cl)CCC(=O)O | C19H14ClN3O3
reactant | 1-hydroxy-7-aza-1H-1,2,3-benzotriazole | 222 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 253 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | hydrochloric acid | 0.1N, 16 ml | Cl | ClH
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 3-{3-[2-(1H-benzoimidazol-1-yl)-4-(4-chlorophenyl)-5-oxazolyl]propanoyl}thiazolidine | 165 mg, 46% | N1(C=NC2=C1C=CC=C2)C=2OC(=C(N2)C2=CC=C(C=C2)Cl)CCC(=O)N2CSCC2 | C22H19ClN4O2S
